US03989707
A mixture of 5,3 parts of 5-chloro-1,3-dihydro-3-methyl-1-(4-piperidinyl)-2H-benzimidazol-2-one, 6.4 parts of sodium carbonate, 0.2 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed for 30 minutes with water-separator. After cooling, there are added 7 parts of 1-chloro-4,4-bis(4-fluorophenyl)-butane and stirring at reflux temperature is continued overnight. The reaction mixture is cooled, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The oily residue is triturated in 2,2'-oxybispropane. The product is filtered off, dried and crystallized from 2-propanol, yielding 5-chloro-1-{1-[4,4-bis(4-fluorophenyl)butyl]-4-piperidinyl}-1,3-dihydro-3 -methyl-2H-benzimidazol-2-one; mp. 155.8° C.

reactant | 5-chloro-1,3-dihydro-3-methyl-1-(4-piperidinyl)-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2C)=O)C2CCNCC2)C=C1 | C13H16ClN3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
reactant | 1-chloro-4,4-bis(4-fluorophenyl)-butane | ClCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H15ClF2
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 5-chloro-1-{1-[4,4-bis(4-fluorophenyl)butyl]-4-piperidinyl}-1,3-dihydro-3 -methyl-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2C)=O)C2CCN(CC2)CCCC(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)C=C1 | C29H30ClF2N3O
